US05091432
0.500 g (4.30 mmol) of N,N-diethylethylenediamine was placed into a 10 ml round bottom flask equipped with a magnetic stirring bar. The amine was heated to 110° C. and 0.250 g (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) was added to the stirring solution. The solution was heated for one hour at 110° C. and was allowed to cool to room temperature. 10 ml of acetonitrile was added and the solution was stirred for 15 minutes. The white precipitate was obtained by filtration and was washed with acetonitrile and then with ether. Upon drying, 195 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(diethylamino)ethyl]propanamide (AIT-0064) as a white solid was obtained. Yield: 60%.

reactant | N,N-diethylethylenediamine | 4.30 mmol, 0.500 g | C(C)N(CCN)CC | C6H16N2
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 0.250 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(diethylamino)ethyl]propanamide | 195 mg, Yield: 60% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCN(CC)CC | C14H22N6O2
